US05436359
6-(11-Carboxyundeca-5,10-diyn-1-yl)-2,3,5-trimethyl-1,4-benzoquinone (340 mg, 1 mmol) was dissolved in ether (10 ml). A solution of diazomethane in ether was added under ice-cooling for methyl-esterification. Nitrogen gas was introduced to remove excess diazomethane. Then water (5 ml) containing sodium hydrosulfite (400 mg, 2.3 mmol) was added, and the mixture was stirred for 1 hour. The ether layer was separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 ml), and tert-butylchlorodiphenylsilane (550 mg, 2 mmol) was added. Then imidazole (136 mg, 2 mmol) was added under a stream of nitrogen, and the mixture was stirred at 43° C. for 16 hours. The reaction mixture was washed with water (5 ml), and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain crude 4-tert-butyldiphenylsilyloxy-6-(11-methoxycarbonylundeca-5,10-diyn-1-yl)-2,3,5-trimethylphenol. This crude product was dissolved in dichloromethane (10 ml), and methyl 1-O-trichloroacetimidoyl-2,3,4-tri-O-acetyl-α-D-glucopyranosiduronate (1 g, 2.1 mmol) was added. Boron trifluoride diethyl ether (0.2 ml) was added under reduced pressure, and the mixture was stirred at the same temperature for 30 minutes. Then water (10 ml) containing sodium bicarbonate (1 g) was added, and the mixture was stirred for 5 minutes. The dichloromethane layer was separated and concentrated under reduced pressure. To the residue were added tetrahydrofuran (15 ml), methanol (10 ml) and 1N sodium hydroxide solution (20 ml), and the mixture was allowed to react at room temperature for 40 hours and concentrated under reduced pressure. The residue was extracted with ether and the aqueous layer was subjected to Sephadex (trade mark) LH-20 column chromatography and eluted with water. The desired fraction was lyophilized to obtain the desired compound (290 mg) as white powder.

reactant | 6-(11-Carboxyundeca-5,10-diyn-1-yl)-2,3,5-trimethyl-1,4-benzoquinone | 1 mmol, 340 mg | C(=O)(O)C#CCCCC#CCCCCC1=C(C(C(=C(C1=O)C)C)=O)C | C21H24O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | sodium hydrosulfite | 2.3 mmol, 400 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butylchlorodiphenylsilane | 2 mmol, 550 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 2 mmol, 136 mg | N1C=NC=C1 | C3H4N2
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 4-tert-butyldiphenylsilyloxy-6-(11-methoxycarbonylundeca-5,10-diyn-1-yl)-2,3,5-trimethylphenol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C(=C(C(=C1C)CCCCC#CCCCC#CC(=O)OC)O)C)C | C38H46O4Si
